US06586429B2
A mixture of (R)-3-(5-acetoxyhexyl)-7,8-dihydro-8-ethoxymethyl-1-methyl-1H-imidazo[2,1-f]-purine-2,4(3H,6H)-dione (100 mg, 0.245 mmol) and potassium carbonate (51 mg, 0.368 mmol) in methanol (12 ml) was stirred at room temperature for 16 hours. After concentration under reduced pressure, the residue was treated with 1.0 M aqueous ammonium chloride solution (10 ml) and stirred for 1 hour. The solid was filtered, washed with water, and dried under vacuum to provide (R)-7,8-dihydro-8-ethoxymethyl-3-(5-hydroxyhexyl)-1-methyl-1H-imidazo[2,1-f]-purine-2,4(3H,6H)-dione (60 mg, 67% yield) as white powder.

reactant | (R)-3-(5-acetoxyhexyl)-7,8-dihydro-8-ethoxymethyl-1-methyl-1H-imidazo[2,1-f]-purine-2,4(3H,6H)-dione | 0.245 mmol, 100 mg | C(C)(=O)O[C@@H](CCCCN1C(N(C=2N=C3N(C2C1=O)CCN3COCC)C)=O)C | C19H29N5O5
reactant | potassium carbonate | 0.368 mmol, 51 mg | C([O-])([O-])=O.[K+].[K+]
solvent | methanol | 12 ml | CO | CH4O
product | (R)-7,8-dihydro-8-ethoxymethyl-3-(5-hydroxyhexyl)-1-methyl-1H-imidazo[2,1-f]-purine-2,4(3H,6H)-dione | 60 mg, 67% yield | C(C)OCN1CCN2C1=NC=1N(C(N(C(C21)=O)CCCC[C@@H](C)O)=O)C | C17H27N5O4
